US06897224B2
5-Nitroquinoline-1-oxide
A solution of 25.5 g (146 mmol) of 5-nitroquinoline in 544 ml of acetic acid and 272 ml of 30% aqueous H2O2 solution are heated for 100 minutes to 62-69° C. The reaction mixture is poured onto saturated NaCl solution and extracted with ethyl acetate. The combined extracts are concentrated by evaporation to about 50 ml with the addition of toluene. Column chromatography on silica gel with ethyl acetate-MeOH yields 12.3 g of the product as a yellow solid.

reactant | 5-nitroquinoline | 146 mmol, 25.5 g | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1 | C9H6N2O2
reactant | NaCl | [Na+].[Cl-]
reactant | acetic acid | 544 ml | C(C)(=O)O | C2H4O2
solvent | H2O2 | 272 ml | OO | H2O2
product | 5-Nitroquinoline-1-oxide | 12.3 g | [N+](=O)([O-])C1=C2C=CC=[N+](C2=CC=C1)[O-] | C9H6N2O3
